US06635655B1
3-(Quinolin-2-ylmethoxy)-propan-1-ol
1,3-Propanediol (6.0 mL, 85 mmol) is dissolved in 20% DMPU in THF (80 mL) and cooled to 0° C. Sodium hydride (60%, 3.6 mg, 90 mmol) is added portionwise, and the contents are allowed to stir for 15 min. at 0° C. 2-Chloromethylquinoline (7.64 g, 42.7 mmol) is added and the reaction is allowed to stir overnight. The reaction is poured into water (700 mL) and extracted with ethyl acetate (1×200 mL). Sodium chloride is added to the aqueous layer and extracted again with ethyl acetate (2×200 mL). The organic layers are pooled and washed with water (2×300 mL) and brine (2×300 mL), dried over MgSO4, filtered and reduced under vacuum to an oil. The crude material is purified by flash chromatography (silica, 2.5% methanol in dichloromethane) to give the title compound. MS (ESI) 218 (M+H)+.

reactant | 1,3-Propanediol | 85 mmol, 6.0 mL | C(CCO)O | C3H8O2
reactant | Sodium hydride | 90 mmol, 3.6 mg | [H-].[Na+]
reactant | 2-Chloromethylquinoline | 42.7 mmol, 7.64 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | water | 700 mL | O | H2O
solvent | DMPU | CN1CCCN(C1=O)C | C6H12N2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3-(Quinolin-2-ylmethoxy)-propan-1-ol | N1=C(C=CC2=CC=CC=C12)COCCCO | C13H15NO2
